US04584293
(b) 1-(7-Methoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloropropane
First, 7-methoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one (1.15 g, 6 mmol) is dissolved in absolute tetramethylurea (30 ml), mixed with 55% sodium hydride dispersion in oil (300 mg) and stirred for 2 hours at 20°-25° C. under a nitrogen atmosphere. The resulting reaction mixture is added dropwise, with stirring, at 15°-20° C. under a nitrogen atmosphere to 1-chloro-3-iodopropane (1.6 g, 7.8 mmol) dissolved in tetramethylurea (20 ml) and stirred for 3 hours at ambient temperature. Then, ethyl acetate (300 ml) are added and the mixture is extracted six times with water. The organic solution is dried over magnesium sulphate, concentrated by evaporation and the residue is purified oer a silica gel column with methylene chloride and increasing amounts of ethanol (up to 2%). Yield: 410 mg. IR spectrum (methylene chloride): 1650 cm-1 (C=O).

reactant | 7-methoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one | 6 mmol, 1.15 g | COC1=CC2=C(CC(NCC2)=O)C=C1 | C11H13NO2
reactant | sodium hydride | [H-].[Na+]
reactant | 1-chloro-3-iodopropane | 7.8 mmol, 1.6 g | ClCCCI | C3H6ClI
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | tetramethylurea | 30 ml | CN(C(N(C)C)=O)C | C5H12N2O
solvent | tetramethylurea | 20 ml | CN(C(N(C)C)=O)C | C5H12N2O
product | 1-(7-Methoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloropropane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1 | C14H18ClNO2
